US04176184
(a) 4,4-Dimethyl-7-propionylamino-8-nitro-2H,4H-isoquinoline-1,3-dione
29.1 gm of 4,4-dimethyl-7-acetamino-8-nitro-2H,4H-isoquinoline-1,3-dione were refluxed for 4 hours with 50 ml of propionic acid anhydride. The mixture was then poured into ice water and neutralized with sodium bicarbonate. The obtained precipitate was purified on a silicagel column (eluant: chloroform/acetone 19:1).

reactant | 4,4-dimethyl-7-acetamino-8-nitro-2H,4H-isoquinoline-1,3-dione | 29.1 gm | CC1(C(NC(C2=C(C(=CC=C12)NC(=O)C)[N+](=O)[O-])=O)=O)C | C13H13N3O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | propionic acid anhydride | 50 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 4,4-Dimethyl-7-propionylamino-8-nitro-2H,4H-isoquinoline-1,3-dione | CC1(C(NC(C2=C(C(=CC=C12)NC(CC)=O)[N+](=O)[O-])=O)=O)C | C14H15N3O5
